US05883106
D. 4-[3-[4-(2-methylimidazol-1-yl)benzyloxy]phenyl]-3,4,5,6-tetrahydro-2H-pyran-4-carboxamide
4-(3-Hydroxyphenyl)-3,4,5,6-tetrahydro-2H-pyran-4-carboxamide was reacted with 4-(2-methylimidazol-1-yl)benzyl chloride hydrochloride according to the procedure described in Example 2H to give the titled compound.

reactant | 4-(3-Hydroxyphenyl)-3,4,5,6-tetrahydro-2H-pyran-4-carboxamide | OC=1C=C(C=CC1)C1(CCOCC1)C(=O)N | C12H15NO3
reactant | 4-(2-methylimidazol-1-yl)benzyl chloride hydrochloride | Cl.CC=1N(C=CN1)C1=CC=C(CCl)C=C1
product | 4-[3-[4-(2-methylimidazol-1-yl)benzyloxy]phenyl]-3,4,5,6-tetrahydro-2H-pyran-4-carboxamide | CC=1N(C=CN1)C1=CC=C(COC=2C=C(C=CC2)C2(CCOCC2)C(=O)N)C=C1 | C23H25N3O3
